US06235731B1
1) Synthesis of 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propanol
To a solution of 35.8 g (250 mM) of 3-(4-piperidyl)-1-propanol in 500 ml of ethanol was added 54.6 g (250 mM) of di-tert-butyl dicarbonate dropwise and the mixture was stirred at room temperature for one hour. The solvent was then distilled off under reduced pressure and the residue was purified by column chromatography (ethyl acetate-hexane=1/1 ethyl acetate) to provide the title compound as light-yellow oil (50.2 g, 82%).

reactant | 3-(4-piperidyl)-1-propanol | 250 mM, 35.8 g | N1CCC(CC1)CCCO | C8H17NO
reactant | di-tert-butyl dicarbonate | 250 mM, 54.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-(1-tert-butoxycarbonyl-4-piperidyl)-1-propanol | 50.2 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCO | C13H25NO3
